datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cc(S(C)=O)ccc1-c1nc2c[n:10]ccc2[nH]1.COc1ccc(-c2nc3ncncc3[n:21]2[H:20])c(OC)c1>>COc1cc(S(C)=O)ccc1-c1nc2c[n+:10]([H:20])ccc2[nH]1.COc1ccc(-c2nc3ncncc3[n-:21]2)c(OC)c1 10=20;20,21=21",
"C[NH:10]CCO.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH+:10](CCO)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1n[n-:10]c2ncnc(N)c12.NC(c1ccccc1N)=[N+:21](O)[H:20]>>Cc1n[n:10]([H:20])c2ncnc(N)c12.NC(c1ccccc1N)=[N:21]O 10=20;20,21=21",
"O=C1C(c2ccc(F)cc2)=C1[O-:10].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[nH+]4)[nH+]3)[n+:21]2[H:20])c[nH+]1>>O=C1C(c2ccc(F)cc2)=C1[O:10][H:20].c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[nH+]4)[nH+]3)[n:21]2)c[nH+]1 10=20;20,21=21",
"COP(=O)(NS(=O)(=O)c1ccccc1)[O:21][H:20].O=[Se](c1ccc(-c2ccccc2)cc1)[O-:10]>>COP(=O)(NS(=O)(=O)c1ccccc1)[O-:21].O=[Se](c1ccc(-c2ccccc2)cc1)[O:10][H:20] 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O:21][H:20].NC(N)=[NH:10]>>CC[NH+]1CCCC1CNC(=O)c1c(OC)c(Br)cc(Br)c1[O-:21].NC(N)=[NH+:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)NC1CCc2ccccc21)[H:20].OCC[N:10](CCO)Cc1nc2ccccc2[nH]1>>CC[N:21](CC)CC(=O)NC1CCc2ccccc21.OCC[N+:10](CCO)(Cc1nc2ccccc2[nH]1)[H:20] 10=20;20,21=21",
"Oc1ccc2c(ccc[n:10]2)c1.c1cnc2cc([O:21][H:20])ccc2n1>>Oc1ccc2c(ccc[n+:10]2[H:20])c1.c1cnc2cc([O-:21])ccc2n1 10=20;20,21=21",
"Cc1ccc(O)c(Cc2cc([N+](=O)[O-])ccc2[O:21][H:20])c1.Clc1ccc(/C=N/[O-:10])cc1>>Cc1ccc(O)c(Cc2cc([N+](=O)[O-])ccc2[O-:21])c1.Clc1ccc(/C=N/[O:10][H:20])cc1 10=20;20,21=21",
"[Se-]c1c2[nH]cnc2nc[n+:21]1[H:20].c1ccc(Oc2cccc[n:10]2)cc1>>[Se-]c1c2[nH]cnc2nc[n:21]1.c1ccc(Oc2cccc[n+:10]2[H:20])cc1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH2+]CCC[NH:10]C>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH2+]CCC[NH+:10](C)[H:20] 10=20;20,21=21",
"CC(=O)NCC[NH2+:21][H:20].CC1(C(=O)[O-:10])CCCCC1>>CC(=O)NCC[NH2:21].CC1(C(=O)[O:10][H:20])CCCCC1 10=20;20,21=21",
"C1OC1C[N+:21](CC1CO1)(CC1CO1)[H:20].C[NH+](C)CCCCNC(=O)/C=N/[O-:10]>>C1OC1C[N:21](CC1CO1)CC1CO1.C[NH+](C)CCCCNC(=O)/C=N/[O:10][H:20] 10=20;20,21=21",
"O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O-:10].c1ccc(-c2nc3ccccc3[n:21]2[H:20])nc1>>O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O:10][H:20].c1ccc(-c2nc3ccccc3[n-:21]2)nc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(-c2cccc3ccc([O-:10])cc23)cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(-c2cccc3ccc([O:10][H:20])cc23)cc1 10=20;20,21=21",
"CC(C)NC=[N+:21](c1ccc(-c2c[nH]cn2)cc1)[H:20].CC1=C2C(=[N:10]c3ccccc32)N(C)C(Cl)=C1>>CC(C)NC=[N:21]c1ccc(-c2c[nH]cn2)cc1.CC1=C2C(=[N+:10]([H:20])c3ccccc32)N(C)C(Cl)=C1 10=20;20,21=21",
"CC(C)CC([NH3+])C(=O)[O:21][H:20].Cn1cc[nH+]c1-c1n(C)cc[n:10]1>>CC(C)CC([NH3+])C(=O)[O-:21].Cn1cc[nH+]c1-c1n(C)cc[n+:10]1[H:20] 10=20;20,21=21",
"CN(C)CCC[N:10](C)C.Cc1ccccc1C[NH2+:21][H:20]>>CN(C)CCC[N+:10](C)(C)[H:20].Cc1ccccc1C[NH2:21] 10=20;20,21=21",
"O=C([O-])C(NCC[NH:10]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])C(NCC[NH+:10](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC[N:10](CC)CCCNc1c2ccccc2[nH+]c2ccccc12.[O-]c1cc[n+]([C@H]2O[C@@H](CO)[C@H](O)[C@H]2O)c([O-])[n+:21]1[H:20]>>CC[N+:10](CC)(CCCNc1c2ccccc2[nH+]c2ccccc12)[H:20].[O-]c1cc[n+]([C@H]2O[C@@H](CO)[C@H](O)[C@H]2O)c([O-])[n:21]1 10=20;20,21=21",
"Cc1ccc(C(=O)[O-:10])c([N+](=O)[O-])c1.O=S(=O)(c1ccc(Cl)cc1)[N:21](c1ccccc1)[H:20]>>Cc1ccc(C(=O)[O:10][H:20])c([N+](=O)[O-])c1.O=S(=O)(c1ccc(Cl)cc1)[N-:21]c1ccccc1 10=20;20,21=21",
"O=C(c1cc2ccccc2cc1O)[O:21][H:20].O=C(c1cc[nH]c1)[O-:10]>>O=C(c1cc2ccccc2cc1O)[O-:21].O=C(c1cc[nH]c1)[O:10][H:20] 10=20;20,21=21",
"C1C[NH:10]CCS1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C1C[NH+:10]([H:20])CCS1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ccccc2)cc1.O=C([O-])CCC#CC#CCCCC[NH2+:21][H:20]>>Nc1ccc(S(=O)(=O)[N:10](c2ccccc2)[H:20])cc1.O=C([O-])CCC#CC#CCCCC[NH2:21] 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[NH:10]CC[C@]314.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@@H]2O)[NH+:10]([H:20])CC[C@]314.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)C[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"COc1cccc([NH:10]CCS)c1.[S-]c1cc[n+:21]([H:20])c([S-])[nH+]1>>COc1cccc([NH+:10](CCS)[H:20])c1.[S-]c1cc[n:21]c([S-])[nH+]1 10=20;20,21=21",
"C[C@H](CCC[NH:10]Cc1ccccc1)[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@H](CCC[NH+:10](Cc1ccccc1)[H:20])[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3C[C@H](O)[C@]12C.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cn1cnc2c(N=O)c([O-:10])ccc21.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cn1cnc2c(N=O)c([O:10][H:20])ccc21.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
